US05565429
Stage A: N-[(4-Carbethoxybenzoyl)methyl]saccharin
45 mmol of ethyl 4-bromoacetylbenzoate in 120 ml of dimethylformamide and 48 mmol of sodium saccharinate are maintained at 100° C. for 180 minutes. After evaporation of the solvent, taking up in 200 ml of water, extraction with dichloromethane, drying and evaporation, the residue is taken up in isopropyl ether, then filtered and taken to the expected product.

reactant | ethyl 4-bromoacetylbenzoate | 45 mmol | BrCC(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H11BrO3
reactant | sodium saccharinate | 48 mmol | C1=CC=C2C(=C1)C(=O)[N-]S2(=O)=O.[Na+]
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | N-[(4-Carbethoxybenzoyl)methyl]saccharin | C(=O)(OCC)C1=CC=C(C(=O)CN2S(=O)(=O)C3=CC=CC=C3C2=O)C=C1 | C18H15NO6S
